US07507828B2
To a solution of 7-amino-1-tritylsulfanyl-heptan-2-one (0.36 g, 0.86 mmol) in dichloromethane (10 mL) was added phenylisocyanate (0.10 mL, 0.92 mmol). The mixture was stirred at room temperature for 2 h. Solvent was then removed in vacuo and the crude product was purified by column chromatography (dichloromethane/MeOH=100/1 to 40/1) to provide 1-(6-Oxo-7-tritylsulfanyl-heptyl)-3-phenyl-urea (0.43 g, 93%).

reactant | 7-amino-1-tritylsulfanyl-heptan-2-one | 0.86 mmol, 0.36 g | NCCCCCC(CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H29NOS
reactant | phenylisocyanate | 0.92 mmol, 0.10 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(6-Oxo-7-tritylsulfanyl-heptyl)-3-phenyl-urea | 0.43 g, 93% | O=C(CCCCCNC(=O)NC1=CC=CC=C1)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H34N2O2S
